US05814378
In a flask, 1.7 g of 4-hydroxy-4'-[2-(perfluorobutyl)ethyloxy]biphenyl and 10 ml of tetrahydrofuran were placed. To this solution, 3.9 ml of a 1N aqueous solution of potassium hydroxide was added and stirred for a while. After the solvent was distilled away under a reduced pressure, 15 ml of methanol and 0.85 g of 8-bromooctanol were added to the solution and stirred under reflux for 12 hours. Next, the reaction solution was poured into water, and an organic layer was extracted with ether. The ether layer was washed with dilute hydrochloric acid and water in this order. After the solvent was distilled away, the residue was purified by silica gel column chromatography (eluent: benzene/ethyl acetate=9/1), and recrystallized from toluene to give 1.5 g of 4-(8-hydroxyoctyloxy)-4'-[2-(perfluorobutyl)ethyloxy]biphenyl (Y: 67.2%). The purity of the compound thus obtained was 98.8% by GC.

reactant | 4-hydroxy-4'-[2-(perfluorobutyl)ethyloxy]biphenyl | 1.7 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C18H13F9O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(8-hydroxyoctyloxy)-4'-[2-(perfluorobutyl)ethyloxy]biphenyl | 1.5 g, 67.2% | OCCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C26H29F9O3
